US07851626B2
To a solution of 3,4-bis-(4-chloro-phenyl)-3-methyl-2,3-dihydro-[1,2,5]thiadiazole 1,1-dioxide (5.38 g, 15.1 mmol) in 91 mL of in ethanol cooled to 0° C. was added sodium borohydride (0.30 g, 61 mmol) portionwise over 7 min. After stirring at 0° C. for another 45 min, the mixture was allowed to warm to room temperature and stirred for 3.5 h. The reaction was then cooled to 0° C. and quenched by dropwise addition of 1 M hydrochloric acid (38 mL). The reaction mixture was taken up in 500 mL of ethyl acetate then washed with water (300 mL) and brine (300 mL), dried over anhydrous sodium sulfate and concentrated. The crude residue was purified by flash column chromatography (silica gel, eluting with 3:1 heptane-ethyl acetate) to give rac-(3R*,4S*)-3,4-bis(4-chlorophenyl)-3-methyl-1,2,5-thiadiazolidine-1,1-dioxide (4.3 g).

reactant | 3,4-bis-(4-chloro-phenyl)-3-methyl-2,3-dihydro-[1,2,5]thiadiazole 1,1-dioxide | 15.1 mmol, 5.38 g | ClC1=CC=C(C=C1)C1(NS(N=C1C1=CC=C(C=C1)Cl)(=O)=O)C | C15H12Cl2N2O2S
reactant | sodium borohydride | 61 mmol, 0.30 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | rac-(3R*,4S*)-3,4-bis(4-chlorophenyl)-3-methyl-1,2,5-thiadiazolidine-1,1-dioxide | 4.3 g | ClC1=CC=C(C=C1)C1(NS(NC1C1=CC=C(C=C1)Cl)(=O)=O)C | C15H14Cl2N2O2S
